US04138289
3.1 g (13.6 mmol) of (3R,7R)-3,7,11-trimethyl-1-dodecanol are treated with 4.02 g (15.3 mmol) of N-bromosuccinimide and 2.62 g (14.7 mmol) of triphenylphosphine in 13 ml of methylene chloride according to the method described above in Example 10. After chromatography and distillation, there are obtained 3.54 g (90%) of (3R,7R)-bromo-3,7,11-trimethyldodecane. B.p. 90°/0.05 Torr; [α]D20 = -3.6 (c = 1.005, n-octane).

reactant | (3R,7R)-3,7,11-trimethyl-1-dodecanol | 13.6 mmol, 3.1 g | C[C@@H](CCO)CCC[C@@H](CCCC(C)C)C | C15H32O
reactant | N-bromosuccinimide | 15.3 mmol, 4.02 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triphenylphosphine | 14.7 mmol, 2.62 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
product | (3R,7R)-bromo-3,7,11-trimethyldodecane | 3.54 g, 90% | BrCC[C@@H](CCC[C@@H](CCCC(C)C)C)C | C15H31Br
